US06288051B1
f) 7α-(5-Acetoxypentyl)-3,17β-bis-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene
5.6 g of crude 7α-(5-acetoxypentyl)-estra-1,3,5(10)-triene-3,17β-diol is dissolved in 35 ml of anhydrous tetrahydrofuran and mixed with 3.5 ml of dihydropyran and 0.18 g of p-toluenesulfonic acid. The mixture is stirred at room temperature overnight, then diluted with ethyl acetate, and the mixture is shaken out in succession with saturated sodium bicarbonate solution and saturated common salt solution. The organic phase is dried with sodium sulfate and concentrated by evaporation in a vacuum, yield 8.31 g.

reactant | 7α-(5-acetoxypentyl)-estra-1,3,5(10)-triene-3,17β-diol | 5.6 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)O | C25H36O4
reactant | dihydropyran | 3.5 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7α-(5-Acetoxypentyl)-3,17β-bis-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-triene | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OC1OCCCC1)OC1OCCCC1 | C35H52O6
